US08314091B2
A: (R)-tert-Butyl 4-(3(tert-butylcarbamoyl)benzyl)-3-methylpiperazine-1-carboxylate
(R)-tert-Butyl 3-methylpiperazine-1-carboxylate was added to a solution containing N-tert-butyl-3-(chloromethyl)benzamide (3.38 g, 14.9 mmol), potassium carbonate (4.11 g, 29.8 mmol) and sodium iodide (catalytic amount) in acetonitrile. The reaction was stirred under reflux for 2 hours. The acetonitrile was removed under reduced pressure. The resulting residue was taken up in dichloromethane and filtered. The filtrate was concentrated under vacuum to afford the title compound (5.82 g).

reactant | (R)-tert-Butyl 3-methylpiperazine-1-carboxylate | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N-tert-butyl-3-(chloromethyl)benzamide | 14.9 mmol, 3.38 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
reactant | potassium carbonate | 29.8 mmol, 4.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-tert-Butyl 4-(3(tert-butylcarbamoyl)benzyl)-3-methylpiperazine-1-carboxylate | 5.82 g | C(C)(C)(C)NC(=O)C=1C=C(CN2[C@@H](CN(CC2)C(=O)OC(C)(C)C)C)C=CC1 | C22H35N3O3
